Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ y/o F with GERD, HLD, who presents with more SOB and episodes 
of transient chest pain. States that she has been dyspneic with 
progressive exertion for the last couple of weeks. Used to be 
able to walk an hour, now she can only walk a half hour. Still 
can climb a flight of stairs without issue. Believes that 
humidity outdoors is contributing, since cooler weather relieves 
symptoms.

Started to develop chest pain in the last week, substernal, 
difficult to characterize, lasting for a few seconds at a time, 
not associated with exertion, position or eating. Pain is 
brought on by worrying about relationships and living situation. 
This AM had bilateral arm pain and sweats around her neck pain 
and decided to go to the ED. 

Presented to BID-N where EKG was reported to show no ischemic 
changes first troponin was negative. ASA 324 given there. She 
was then transferred to ___. In the ___ ED, initial vitals 
were: 97.2 79 131/53 16 95% RA. EKG: NSR, RBBB, no ST changes. 
Repeat troponin was negative. Atrius cardiology saw the patient 
and asked that the patient be admitted for MIBI study on ___.

 
Past Medical History:
Hypercholesterolemia 
Osteoporosis 
Retinal detachment, old, total/subtotal 
Macular drusen 
TMJ arthralgia 
Varicose veins 
Colorectal polyps 
History of Helicobacter infection 
Mitral regurgitation 
Depression, major, recurrent, in partial remission 
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death.  
 
Physical Exam:
ADMISSION:
VS: 97.6 70 172/80 14 100% RA 
GENERAL: elderly female, NAD.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: No JVD appreciated 
CARDIAC: RR, normal S1, S2. No murmurs/rubs/gallops.  
LUNGS: Fine crackles at bases 
ABDOMEN: Soft, NTND.  
EXTREMITIES: No c/c/e.   
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric. 

DISCHARGE:
VS: 98.0 ___ 110-120s/50-60s 18 98-100% RA
GENERAL: elderly female, NAD.   
NECK: No JVD appreciated. 
CARDIAC: RR, normal S1, S2. No murmurs/rubs/gallops.  
LUNGS: Fine crackles at bases.
ABDOMEN: Soft, NTND.  
EXTREMITIES: No c/c/e.   
PULSES: Distal pulses palpable and symmetric.
 
Pertinent Results:
ADMISSION:
___ 06:08AM BLOOD WBC-3.5* RBC-3.71* Hgb-11.8 Hct-36.8 
MCV-99* MCH-31.8 MCHC-32.1 RDW-13.8 RDWSD-51.0* Plt ___
___ 06:09PM BLOOD cTropnT-<0.01 proBNP-251

STRESS MYOCARDIAL PERFUSION STUDY (___):
___ yo woman with HL was referred to evaluate an 
atypical chest discomfort and shortness of breath. The patient 
completed 
10 minutes of a Gervino protocol representing an average 
exercise 
tolerance; ~ ___ METS. The exercise test was stopped due to 
fatigue. No 
chest, back, neck or arm discomforts were reported by the 
patient during 
the procedure. No significant ST segment changes were noted 
during the 
procedure. The rhythm was sinus with rare isolated A and VPBs 
noted. 
The hemodynamic response to exercise was appropriate. 
  
IMPRESSION: Average exercise tolerance. No anginal symptoms or 
ischemic 
ST segment changes. Appropriate hemodynamic response to 
exercise. 
Nuclear report sent separately. 

NUCLEAR REPORT: No evidence of myocardial perfusion defects. 
Normal ejection fraction. 

DISCHARGE:
___ 06:05AM BLOOD WBC-4.3 RBC-4.20 Hgb-13.1 Hct-41.3 MCV-98 
MCH-31.2 MCHC-31.7* RDW-13.8 RDWSD-50.3* Plt ___
___ 06:05AM BLOOD Glucose-93 UreaN-13 Creat-0.7 Na-138 
K-4.4 Cl-101 HCO3-28 AnGap-13
___ 06:05AM BLOOD Calcium-9.3 Phos-3.7 Mg-2.___ female w/ GERD, HLD, and no cardiac history, who p/w chest 
pain x 3 days.

# Atypical Chest Pain: Very atypical symptoms for coronary 
disease. On further questioning patient felt that these short 
bursts of chest pain ___ seconds) would come on during anxiety 
about her living situation and arguments with her daughter. 
___ were negative x 2. Stress MIBI was negative. 

#Decreased exercise tolerance: Patient did not endorse true 
dyspnea on exertion. Rather, she said she could not walk as far 
in the last few weeks because of the humidity. BNP negative. No 
other symptoms or signs of heart failure.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Pravastatin 20 mg PO QPM 
2. Loratadine 10 mg PO DAILY 

 
Discharge Medications:
1.  Loratadine 10 mg PO DAILY  
2.  Pravastatin 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
atypical chest pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted because you were having chest pain. You 
underwent a stress test that did not show any problems with your 
heart.

Please follow up with your PCP.

Sincerely,
Your ___ Team
 
Followup Instructions:
___